US06787652B1
2-{3-Chloro-4-[3-(4-fluoro-benzyl)-4-hydroxy-phenoxy]-5-methyl-phenyl}-2H-[1,2,4]triazine-3,5-dione
To a stirred solution of 2-(3-chloro-4-{3-[(4-fluoro-phenyl)-hydroxy-methyl]-4-hydroxy-phenoxy}-5-methyl-phenyl)-2H-[1,2,4]triazine-3,5dione (0.4 g) in dichloromethane (25 mL) were added methanesulfonic acid (0.7 mL) and triethylsilane (1.5 mL) portionwise over 1 h. After a total of 1.5 h, water was added, the layers separated and the aqueous layer extracted with dichloromethane. The combined organic layers were washed with saturated sodium bicarbonate, dried (Na2SO4), concentrated in vacuo and flash chromatographed on silica gel (10-50% THF/hexanes) to afford the title compound of this EXAMPLE as a colorless foam, 56 mg. MS Calc.:453.9; Found:452.

reactant | 2-(3-chloro-4-{3-[(4-fluoro-phenyl)-hydroxy-methyl]-4-hydroxy-phenoxy}-5-methyl-phenyl)-2H-[1,2,4]triazine-3,5dione | 0.4 g | ClC=1C=C(C=C(C1OC1=CC(=C(C=C1)O)C(O)C1=CC=C(C=C1)F)C)N1N=CC(NC1=O)=O | C23H17ClFN3O5
reactant | methanesulfonic acid | 0.7 mL | CS(=O)(=O)O | CH4O3S
reactant | triethylsilane | 1.5 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | water | O | H2O
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 2-{3-Chloro-4-[3-(4-fluoro-benzyl)-4-hydroxy-phenoxy]-5-methyl-phenyl}-2H-[1,2,4]triazine-3,5-dione | ClC=1C=C(C=C(C1OC1=CC(=C(C=C1)O)CC1=CC=C(C=C1)F)C)N1N=CC(NC1=O)=O | C23H17ClFN3O4
